US09416111B2
A suspension of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (150 mg, 0.396 mmol), ethyl 4-[(5-bromopyrimidin-2-yl)oxy]cyclohexanecarboxylate (130 mg, 0.396 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.026 g, 0.032 mmol), 1,4-dioxane (3.6 mL), water (0.36 mL), and aqueous sodium carbonate (2 M, 0.396 mL, 0.791 mmol) was placed under an argon atmosphere by performing 6 vacuum/argon cycles. The reaction mixture was then heated to 160° C. for 10 minutes using a microwave reactor. The resulting suspension was diluted with ethyl acetate (30 mL) and saturated aqueous sodium bicarbonate solution (15 mL). The layers were separated, and the organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/hexanes) to afford ethyl 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyrimidin-2-yl]oxy}cyclohexanecarboxylate as a mixture of cis and trans isomers. MS ESI calc'd. for C25H27F3N5O3 [M+H]+ 502. found 502.

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.396 mmol, 150 mg | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | ethyl 4-[(5-bromopyrimidin-2-yl)oxy]cyclohexanecarboxylate | 0.396 mmol, 130 mg | BrC=1C=NC(=NC1)OC1CCC(CC1)C(=O)OCC | C13H17BrN2O3
reactant | 1,4-dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 0.791 mmol, 2 M, 0.396 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | water | 0.36 mL | O | H2O
product | ethyl 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyrimidin-2-yl]oxy}cyclohexanecarboxylate | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=NC(=NC1)OC1CCC(CC1)C(=O)OCC | C25H26F3N5O3
